US06380218B1
2,2-Dimethyl-propionic acid 4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl ester
A solution 2-(4-Fluoro-phenoxy)-N-(4-hydroxy-benzyl)-nicotinamide (0.050 grams, 0.148 mmole), trimethylacetyl chloride (0.019 grams, 0.163 mmole) and triethyl amine (0.022 grams, 0.222 mmole) in methylene chloride (5 ml) was stirred for 30 minutes. The mixture was diluted with 50 ml 1N sodium hydroxide and extracted with ethyl acetate. The combined organics were washed with water and brine, dried over Na2SO4, filtered and concentrated to give an oil that was purified by chromatography on silica gel eluting with 40% ethyl acetate/hexane. Recrystalization from ethyl acetate/hexane gave a solid (0.043 g). M.P. 91-93° C.; Anal. calcd. for C24H23N2O4F: C, 68.24; H, 5.49; N, 6.63. Found: C, 66.07; H, 5.24; N, 6.42.

reactant | 2-(4-Fluoro-phenoxy)-N-(4-hydroxy-benzyl)-nicotinamide | 0.148 mmole, 0.050 grams | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)O)C=CC=N2)C=C1 | C19H15FN2O3
reactant | trimethylacetyl chloride | 0.163 mmole, 0.019 grams | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | triethyl amine | 0.222 mmole, 0.022 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
product | 2,2-Dimethyl-propionic acid 4-({[2-(4-fluoro-phenoxy)-pyridine-3-carbonyl]-amino}-methyl)-phenyl ester | 0.043 g | FC1=CC=C(OC2=NC=CC=C2C(=O)NCC2=CC=C(C=C2)OC(C(C)(C)C)=O)C=C1 | C24H23FN2O4
